* C:\Users\david\Dropbox\Doutorado\Apostilha Filtros Ativos\LTSPice\filtros.asc
R1 N002 Vout1 10k
C1 Vout1 0 100n
Vin1 N002 0 AC
Vin2 N003 0 AC
R2 Vout2 0 10k
C2 Vout2 N003 100n
Vin3 N004 0 AC
R3 N005 0 10k
C3 N005 N004 100n
R4 N005 Vout3 10k
C4 Vout3 0 100n
Vin4 N001 0 AC
C5 Vout4 N001 100n
L1 N001 Vout4 10m
R5 Vout4 0 10k
.ac dec 10 1 100k
.backanno
.end
